US07105547B2
Preparation of N-{2-oxo-3-[4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-oxazolidin-5-ylmethyl}-propionamide
The compound is prepared from {3-[4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester (232 mg, 0.60 mmol) and propionic anhydride (120 mg, 0.96 mmol) following the method described for Example 5. The crude product is purified by silica gel column chromatography (2% to 5% MeOH in EtOAc) to give the title compound as solid. MS (m/z): 344 [M+1]+. 1H NMR (300 MHz, DMSO-d6) δ8.16 (br. t, 1H), 7.72 (d, J=8.0 Hz, 1H), 7.52 (d, J=7.1 Hz, 2H), 7.27 (d, J=7.4 Hz, 2H), 4.97 (d, J=7.4 Hz, 1H), 4.80–4.65 (m, 1H), 4.10 (t, J=7.7 Hz, 2H), 3.94 (t, J=6.9 Hz, 2H), 3.41–3.99 (m, 2H), 2.49–2.47 (m, 2H), 2.09 (q, J=5.8 Hz, 2H), 0.93 (t, J=7.4 Hz, 3H).

reactant | {3-[4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester | 0.60 mmol, 232 mg | C(C)(C)(C)OC(NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1CCC(C=C1)=O)=O | C20H25N3O5
reactant | propionic anhydride | 0.96 mmol, 120 mg | C(CC)(=O)OC(CC)=O | C6H10O3
product | N-{2-oxo-3-[4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-oxazolidin-5-ylmethyl}-propionamide | O=C1OC(CN1C1=CC=C(C=C1)N1CCC(C=C1)=O)CNC(CC)=O | C18H21N3O4
